* Schematics Netlist *



R_R1         0 Vout  4750  
C_C1         Vin $N_0001  100n  
V_V1         Vin 0  
+SIN 0 1.09596 2000 0 0 0
L_L1         $N_0001 Vout  0.25H  
